US08957203B2
2-(2-cyano-5-methoxyphenyl)acetic acid (3.8 g, 19.88 mmol), and SOCl2 (20 mL, 274 mmol) were stirred in dichloromethane (25 mL) at RT. The suspension became a solution over 8 h. The reaction was stirred overnight. The volitile organics were removed under vacuum and the residue was taken up in DCM and filtered. The filtrate was concentrated and then dissolved in 4 N HCl dioxane (30 mL) and transferred to a sealed vessel and heated to 60° C. for 3 h. The reaction was cooled and the solid was collected, washed with dioxane, and dried under vacuum to give the product 1-chloro-6-methoxyisoquinolin-3-ol (3.3 g, 70% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ 8.10 (d, J=9.6 Hz, 1H), 7.12 (dd, J=9.3, 2.5 Hz, 1H), 6.95 (s, 2H), 3.98 (s, 3H).

reactant | 2-(2-cyano-5-methoxyphenyl)acetic acid | 19.88 mmol, 3.8 g | C(#N)C1=C(C=C(C=C1)OC)CC(=O)O | C10H9NO3
reactant | SOCl2 | 274 mmol, 20 mL | O=S(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-chloro-6-methoxyisoquinolin-3-ol | 3.3 g, 70% yield | ClC1=NC(=CC2=CC(=CC=C12)OC)O | C10H8ClNO2
